US06903101B1
Step 1: Preparation of 2-(2-phenylpyridin-4-ylidene)indan-1,3-dione
Under exclusion of air, a mixture of phthalic anhydride (4.38 g, 29.5 mmol) and 2-phenyl-4-picoline (5.0 g, 29.5 mmol) was heated to 200° C. The reaction melt was stirred at 200° C. for 14 h until a yellow precipitate was formed. The reaction was cooled to 100° C. and ethanol (300 mL) was added. The resultant brown mass was refluxed in ethanol for 1 h and sonicated in a water bath to break up the compound. The precipitate was filtered and triturated in ethanol (100 mL) to give the title compound as a yellow solid (3.2 g, 10.7 mmol, 36% yield). 1H-NMR (DMSO-d6) 12.06 (broad s, 1H), 9.04 (d, J=1.3, 1H), 8.68 (dd, J=6.7, 1.3, 1H), 8.17 (d, J=6.7, 1H), 7.79 (dd, J=8.0, 5.2, 2H), 7.61 to 7.64 (m, 3H), 7.45 to 7.53 (m, 4H); MS ES 300 (M+H)+, calc. 299; TLC (1:2:8 v/v methanol-acetone-dichloromethane) Rf=0.32.

reactant | phthalic anhydride | 29.5 mmol, 4.38 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 2-phenyl-4-picoline | 29.5 mmol, 5.0 g | C1(=CC=CC=C1)C1=NC=CC(=C1)C | C12H11N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 2-(2-phenylpyridin-4-ylidene)indan-1,3-dione | 10.7 mmol, 3.2 g, 36% yield | C1(=CC=CC=C1)C1=NC=CC(C1)=C1C(C2=CC=CC=C2C1=O)=O | C20H13NO2
